US06518423B1
4-(Methoxymethoxy)cyclohexane-1,1-dimethyl dimethanesulfonate
6.84 g of 4-(methoxymethoxy)cyclohexane-1,1-dimethanol was dissolved in 110 ml of dichloromethane and 13.56 g of pyridine was added thereto and ice-cooled. 7.79 ml of methanesulfonyl chloride was added thereto and the resulting mixture was stirred at room temperature for 17 hours. Then the reaction mixture was concentrated and the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 11.91 g of the title compound as a colorless oily substance.

reactant | 4-(methoxymethoxy)cyclohexane-1,1-dimethanol | 6.84 g | COCOC1CCC(CC1)(CO)CO | C10H20O4
reactant | pyridine | 13.56 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 7.79 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 4-(Methoxymethoxy)cyclohexane 1,1-dimethyl dimethanesulfonate | 11.91 g | COCOC1CCCCC1.CS(=O)(=O)OC.CS(=O)(=O)OC | InChI=1S/C8H16O2.2C2H6O3S/c1-9-7-10-8-5-3-2-4-6-8;2*1-5-6(2,3)4/h8H,2-7H2,1H3;2*1-2H3
